US07199147B2
A solution of di-tert-butyl dicarbonate (14.3 mg, 65.5 mmol) in chloroform (210 ml) was added dropwise to a solution of 1,3-diaminocyclohexane (15.0 g, 131 mmol) in chloroform (300 ml), and the resulting mixture was stirred overnight at room temperature. After completion of the reaction, the precipitate was removed. The solvent was distilled off from the filtrate under reduced pressure, and the residue was purified by a silica gel chromatography (eluent: chloroform/methanol) to obtain tert-butyl 3-aminocyclohexanecarbamate (13.0 g, yield 92%).

reactant | di-tert-butyl dicarbonate | 65.5 mmol, 14.3 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1,3-diaminocyclohexane | 131 mmol, 15.0 g | NC1CC(CCC1)N | C6H14N2
solvent | chloroform | 210 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 3-aminocyclohexanecarbamate | 13.0 g, yield 92% | NC1CC(CCC1)NC(=O)OC(C)(C)C | C11H22N2O2
